US07125907B2
To a solution of 2-[3-(tritylthio)mercaptopropyl]pentanedioic acid (150 g, 0.33 mol) in dichloromthane (500 mL) was added dropwise trifluoroacetic acid (110 mL) over 30 minutes. After being stirred for an additional 30 minutes, a solution of triethylsilane (45 mL, 0.33 mol) in dichloromethane (50 mL) was added and the mixture was stirred at 45° C. for 1 hour. The volatiles were removed in vacuo and the residue was triturated with hexanes (500 mL×2). The oily residue was dissolved in toluene (500 mL) containing 10-camphorsulfonic acid (14 g) and refluxed for 6 hours. The liberated water was removed using a Dean-Stork azeotropic adapter. Toluene was then distilled off and the residue was purified by silica gel chromatography (EtOAc/hexanes, 1/4). Subsequent recrystallization from EtOAc/hexanes afforded 23.3 g of 3-(2-oxotetrahydro-2H-thiopyran-3-yl)propanoic acid as a white solid (37% yield): 1H NMR (CD3OD) δ 1.65–1.78 (m, 2 H), 2.05–2.18 (m, 4 H), 2.35–2.48 (m, 2 H), 2.65–2.74 (m, 1 H), 3.13–3.29 (m, 2 H); 13C NMR (CD3OD) δ 23.3, 27.4, 29.3, 31.2, 32.3, 50.0, 177.0, 206.4. Analysis calculated for C8H12O3S: C, 51.04; H, 6.43; S, 17.03. Found: C, 51.08; H, 6.38; S, 17.16.

reactant | 2-[3-(tritylthio)mercaptopropyl]pentanedioic acid | 0.33 mol, 150 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SSCCCC(C(=O)O)CCC(=O)O | C27H28O4S2
reactant | trifluoroacetic acid | 110 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.33 mol, 45 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(2-oxotetrahydro-2H-thiopyran-3-yl)propanoic acid | 23.3 g, 37% yield | O=C1SCCCC1CCC(=O)O | C8H12O3S
